US04618623
Preparation of methyl-[3-(1-indanylidene)]-carbazate
To a solution of 39.65 g (0.3 moles) of 1-indanone in 300 ml of methanol 3 ml of acetic acid and 27 g (0.3 moles) of methyl carbazate are added. The reaction mixture is boiled in a flask equipped with a reflux condenser for one hour, then clarified with bone coal, filtered and the filtrate is cooled with icy water. 43.7 g of the desired compound are obtained in the form of white crystals. M.p.: 155°-156° C.

reactant | 1-indanone | 0.3 moles, 39.65 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methyl carbazate | 0.3 moles, 27 g | C(NN)(=O)OC | C2H6N2O2
solvent | methanol | 300 ml | CO | CH4O
product | methyl-[3-(1-indanylidene)]-carbazate | 43.7 g, Yield: 91.5% | COC(NN=C1CCC2=CC=CC=C12)=O | C11H12N2O2
